US07323475B2
e. 6-Cyclohexyloxy-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester
To a mixture of 1-bromo-6-cyclohexyloxy-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester (1.0 g) in ethyl acetate (20 ml) was added 10% Pd/C (50% wet) (460 mg) and then ammonium formate (1.5 g). Resulting mixture was refluxed for 4 h. After cooling, reaction mixture was filtered and concentrated. The residue was purified by silica gel chromatography (5%-10% ethyl acetate in methylene chloride) to give the title compound (640 mg). MS-(+)-ion M+1=344.22.

reactant | 1-bromo-6-cyclohexyloxy-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 1.0 g | C(CCC)OC(=O)C=1N=C(C2=CC=C(C=C2C1O)OC1CCCCC1)Br | C20H24BrNO4
reactant | ammonium formate | 1.5 g | C(=O)[O-].[NH4+]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 460 mg | [Pd] | Pd
product | 6-Cyclohexyloxy-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 640 mg | C(CCC)OC(=O)C=1N=CC2=CC=C(C=C2C1O)OC1CCCCC1 | C20H25NO4
